US06861162B2
To a solution of 10 g sodium salt of benzoylacetaldehyde (prepared according to the procedure of Example 1) and 10 g hydroxyamine chloride in 30 ml ethanol was added 20 ml 50% NaOH at 0-10° C. The mixture was then refluxed for 24 hrs, and concentrated to 2/3 volume. The brown solution was neutralized with the concentrated hydrochloric acid. The precipitate was collected by filtration, and dried under vacuum to get a solid with slight pink color, 3.8 g benzoylacetonitrile.

reactant | sodium | 10 g | [Na] | Na
reactant | benzoylacetaldehyde | C(C1=CC=CC=C1)(=O)CC=O | C9H8O2
reactant | hydroxyamine chloride | 10 g | [Cl-].ON
reactant | NaOH | 20 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | benzoylacetonitrile | 3.8 g | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
